US07230007B2
To 1.9 g (9.2 mmol) of methyl 1H-pyrrolo[2,3-b]pyridine-3-carboxylate in 50 cm3 of dimethylsulfoxyde under argon atmosphere, were added 1.85 g (11.0 mmol) of 4-chloro-7-methyl-7H-pyrrolo[2,3-d]pyrimidine, followed by 3.2 g (23.0 mmol) of potassium carbonate. The reaction mixture was heated at about 120° C. for 24 hours, upon which it was cooled to about 20° C. and treated with 200 cm3 of distilled water. The mixture was then treated with 300 cm3 and 150 cm3 of ethyl acetate and filtered on Celite®. The aqueous phase was extracted with 150 cm3 of ethyl acetate. The combined organic extracts were dried on magnesium sulfate and concentrated to dryness in vacuo (2.7 kPa). The residue was purified via column chromatography on silica gel (0,04–0,06 mm), with dichloromethane/methanol 99:1 v/v as eluting solvent. Thus, 1.25 g of methyl 1-(7-methyl-7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1H-pyrrolo[2,3-b]pyridine-3-carboxylate were obtained as a light-yellow crystalline powder. mp: 207° C.

reactant | methyl 1H-pyrrolo[2,3-b]pyridine-3-carboxylate | 9.2 mmol, 1.9 g | N1C=C(C=2C1=NC=CC2)C(=O)OC | C9H8N2O2
reactant | 4-chloro-7-methyl-7H-pyrrolo[2,3-d]pyrimidine | 11.0 mmol, 1.85 g | ClC=1C2=C(N=CN1)N(C=C2)C | C7H6ClN3
reactant | potassium carbonate | 23.0 mmol, 3.2 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | 200 cm3 | O | H2O
solvent | dimethylsulfoxyde | 50 cm3 | CS(=O)C | C2H6OS
solvent | ethyl acetate | 150 cm3 | C(C)(=O)OCC | C4H8O2
product | methyl 1-(7-methyl-7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1H-pyrrolo[2,3-b]pyridine-3-carboxylate | 1.25 g | CN1C=CC2=C1N=CN=C2N2C=C(C=1C2=NC=CC1)C(=O)OC | C16H13N5O2
